US06451816B1
N-[4-(1-Diphenylmethylpiperidin-4-yl)-butyl]-N-ethyl-3-(pyridin-3-yl)-acrylamide (Substance 123)
10 g (22.0 mmol) N-[4-(1-diphenylmethylpiperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide (substance 104) are dissolved in 100 ml THE and added to 0.73 g (24.3 mmol) 80% NaH (heavy foaming) and stirred 20 minutes at RT. 2.1 ml (26.4 mmol) ethyl iodine are added dropwise and the mixture is stirred five hours at RT. 0.1 g tetrabutyl ammonium iodine are added and the batch is further stirred at RT overnight. Subsequently, 0.1 g (3 mmol) 80% NaH are added and this is heated at 50° C. for one hour under stirring. The batch is carefully hydrolyzed with 50 ml water after cooling to RT. The aqueous phase is extracted with 100 ml dichloromethane and the combined organic phases are washed with 50 ml water. The organic phase is concentrated in vacuum and the residue is chromatographically pre-purified twice over silica gel with CHCl3/CH3OH (95/5 to 90/10 and 98/2 to 95/5), subsequently further purified by flash chromatography with CHCl3/CH3OH (100/0 to 98/2) and crystallized three times from 20 ml 1-chlorobutane, 10 ml acetonitrile/diisopropyl ether (1/1) and 8 ml isopropanol/diisopropyl ether (1/1). Yellow crystals with a MP of 115-117° C. were recovered, yield. 1.1 g (10%).

reactant | N-[4-(1-diphenylmethylpiperidin-4-yl)-butyl]-3-(pyridin-3-yl)-acrylamide | 22.0 mmol, 10 g | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCNC(C=CC=1C=NC=CC1)=O)C1=CC=CC=C1 | C30H35N3O
reactant | NaH | 24.3 mmol, 0.73 g | [H-].[Na+]
reactant | ethyl iodine | 26.4 mmol, 2.1 ml | C(C)I | C2H5I
reactant | tetrabutyl ammonium iodine | 0.1 g | [I+].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaH | 3 mmol, 0.1 g | [H-].[Na+]
solvent | water | 50 ml | O | H2O
product | N-[4-(1-Diphenylmethylpiperidin-4-yl)-butyl]-N-ethyl-3-(pyridin-3-yl)-acrylamide | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCN(C(C=CC=1C=NC=CC1)=O)CC)C1=CC=CC=C1 | C32H39N3O
